US04232032
A mixture of ethyl 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylate (6.4 g.), 100% hydrazine hydrate (3 ml.) and ethanol (30 ml.) was warmed on the steam bath for 30 hours. The reaction mixture was cooled, and then evaporated to dryness under reduced pressure. The oily residue was triturated with petroleum ether (b.p. 60°-80° C.) and the solid product thus obtained was crystallised from ethanol, to give 4-dichloromethylene-2-trichloromethylbenzo[1,3]dioxin-6-carbohydrazide, m.p. 182°-183° C.

reactant | ethyl 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylate | 6.4 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C(=O)OCC)(Cl)Cl | C13H10Cl6O4
reactant | hydrazine hydrate | 3 ml | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-dichloromethylene-2-trichloromethylbenzo[1,3]dioxin-6-carbohydrazide | ClC(=C1OC(OC2=C1C=C(C=C2)C(=O)NN)C(Cl)(Cl)Cl)Cl | C11H7Cl5N2O3
